US03988369
0-Cresol, 0.023 ml, iodine, 3 g, and 25 ml of trimethyl phosphate were held at 87° C under nitrogen for 12 hours with stirring. The iodine color having disappeared, 2.9 g more of iodine (total iodine 0.023 mol) was added and held 12 hours again. The iodine was gone but a brown color had developed. The mixture was poured into water and extracted with hexane. Three layers formed: the hexane layer containing the product, a dark viscous oil at interface of hexane, and water (which was a phosphate ester of product) the aqueous layer. The hexane layer was separated, dried and evaporated. The residue, 5 g, contained about 60% of the desired product (GLC, RT=108 sec. on 6 ft. SE 30 column at 150° and 40 ml of He/min. flow) and 40% trimethyl phosphate (40%, RT=60 sec.). There were indications of less than 1% 6-iodo-2 -cresol (RT=112 sec.) and about 1% 4,6-diiodo-2-cresol (RT=180 sec.). This crude mixture was warmed on a steam-bath with 8% aqueous sodium hydroxide, cooled, acidified, and the solid obtained filtered and washed. The same treatment was given to the heavy oil insoluble in hexane. The crude weight of 4-iodo-2-cresol obtained in this way were 3.5 g, 65% and 0.35 g, 6%, respectively. Recrystallization of first fraction gave shiny, beige-colored needles, mp 66.5°-68° (colorless melt), 1.55 g, 29% reported (C. M. Suter, R. D. Shultz, J. Org. Chem., 16, 1117 (1951)) mp 64°-65°. The second crop from the filtrate combined and recrystallized with the 0.35 g fraction gave 1.1 g, 20%, of darker beige needles, mp 65°-67° (amber melt).

reactant | iodine | II | I2
reactant | trimethyl phosphate | 25 ml | P(=O)(OC)(OC)OC | C3H9O4P
reactant | iodine | 0.023 mol | II | I2
reactant | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 4-iodo-2-cresol | IC=1C=C(C(=CC1)O)C | C7H7IO
